US05514680
A mixture of 1-amino-1,4-dihydro-2,3-quinoxalinedione (53 mg, 0.30 mMol) and pyridine (1 mL, fresh distilled from KOH before use) and acetic anhydride (1 mL, Aldrich) was stirred under nitrogen at 60° C. for 4 hrs. The reaction mixture became a clear solution. All of solvent and reagent were then evaporated under reduced pressure and washed with benzene:cyclohexane=1:1(2×2 mL); ether (2×2 mL), dried at 60° C. with rotavapor for 2 h, affording 57 mg (86%) of pure 1-acetamido-1,4-dihydro-2,3-quinoxalinedione as a white powder; mp:211°-213° C. IR (KBr, cm-1): 3430; 3127; 1741; 1717; 1668. NMR (1H, DMSO-d6) δ:2.326 (s, 3H); 7.121-7.287 (m, 4H); 12.345 (s, 1H). Mass:calcd for C10H9N3O3 (M+) m/z:219.0641; found: 219.0651.

reactant | 1-amino-1,4-dihydro-2,3-quinoxalinedione | 0.30 mMol, 53 mg | NN1C(C(NC2=CC=CC=C12)=O)=O | C8H7N3O2
reactant | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 1-acetamido-1,4-dihydro-2,3-quinoxalinedione | 57 mg, 86% | C(C)(=O)NN1C(C(NC2=CC=CC=C12)=O)=O | C10H9N3O3
